US05354747
1,1-dimethylethyl 4-(4pyridinylcarbonyl)-1-piperazinecarboxylate
A sample of 4-pyridinecarboxylic acid (1.32 g, 10.7 mmol) was dissolved in 50 mL of CH2Cl2. To this solution under N2 was added N-methylmorpholine (1.21 mL, 11.0 mmol) before it was cooled to -78° C. and isobutylchloroformate (1.39 mL, 10.7 mmol) was added. The reaction was allowed to warm to 0° C. and stirred at this temperature for 30 minutes before it was cooled again to -78° C. and t-butyloxycarbonyl piperazine (2.0 g, 10.7 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 18 hours. All solvent was removed under reduced pressure to give a residue that was dissolved in EtOAc, washed with saturated NaHCO3 and brine, and dried (Na2SO4). After all solvent was removed in vacuo, the residue was chromatographed to generate 1.3 g of the title compound.

reactant | 4-pyridinecarboxylic acid | 10.7 mmol, 1.32 g | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | N-methylmorpholine | 11.0 mmol, 1.21 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 10.7 mmol, 1.39 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | t-butyloxycarbonyl piperazine | 10.7 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,1-dimethylethyl 4-(4pyridinylcarbonyl)-1-piperazinecarboxylate | N1=CC=C(C=C1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O3
